US05994368
To a solution of 8-[2,6-dichloro-3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline (2.07 g) in ethanol (20 ml) was added 1N sodium hydroxide solution (3.75 ml) at ambient temperature. The mixture was stirred for 3 hours at 60° C. The reaction mixture was adjusted to pH 4 with 1N hydrochloric acid and concentrated. The residue was purified by flash chromatography (dichloromethane--methanol) to give 8-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (1.71 g) as an amorphous powder.

reactant | 8-[2,6-dichloro-3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline | 2.07 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(\C=C\C=1C=NC(=CC1)C(=O)OCC)=O)=O)Cl | C31H28Cl2N4O5
reactant | sodium hydroxide | 1N, 3.75 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 1.71 g | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C29H24Cl2N4O5
